US05840732
ii) Synthesis of 5-pentylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 1.70 g (4.36 mmol) of 5-pentylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione in 30 ml of methanol, 0.42 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 1.77 g (95.3%, yellow-orange oily substance) of the desired product.

reactant | 5-pentylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 4.36 mmol, 1.70 g | C(CCCC)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C19H23N3O2S2
reactant | hydrochloric acid | 0.42 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 5-pentylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCCC)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C19H23N3O2S2.ClH/c1-2-3-4-8-15-18(23)22(19(24)26-15)12-5-6-14-25-17-10-7-9-16-20-11-13-21(16)17;/h7-11,13H,2-6,12,14H2,1H3;1H
